US06369070B1
N-(t-Butyloxycarbonyl)-3-Aminobenzylamine
To a solution of N-(t-butyloxycarbonyl)-3-nitrobenzylamine (13.8 g, 54.7 mmol) in dimethylformamide (200 mL) was added tin(II) chloride dihydrate (74.1 g, 328 mmol) and the reaction was stirred at room temperature for 48 hours. The dimethylformamide was removed under vacuum. The residue was resuspended in dichloromethane (300 ml), washed with brine (200 mL), filtered through a celite pad, and the solvent removed to provide 12.2 g of the title compound. (100%).

reactant | N-(t-butyloxycarbonyl)-3-nitrobenzylamine | 54.7 mmol, 13.8 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C12H16N2O4
reactant | tin(II) chloride dihydrate | 328 mmol, 74.1 g | O.O.[Sn](Cl)Cl
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | N-(t-Butyloxycarbonyl)-3-Aminobenzylamine | 12.2 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)N | C12H18N2O2
